* Math Precision demo

* This circuit illustrates a numerical precision problem often found
* with MOSFET models.  The circuit consists of
* 1. A 1-volt voltage source connected to the drain.
* 2. The drain node is connected to an "internal" drain node by a
*    .001 ohm resistance.  This represents what happens in some MOS
*    models when no drain resistance is given.  The internal node is
*    unused, and follows the drain node voltage, due to the very low
*    resistance connection.  However, this is bad, as we shall see.
* 3. The MOS channel is modeled by a 10 giga-ohm resistor, we assume
*    that the transistor of "off".
* 4. The source and internal source nodes are tied together by a .001
*    ohm resistor, as for the drain.
* 5. The source is connected to ground through a 0-volt voltage source
*    to be used as a current meter.

Vd d 0 1.0
Rd d di .001
Rc di si 1e13
Rs si s .001
Vs s 0 0

* Of course, since everything is connected in series, including the
* two voltage sources, the current measured by the two sources will be
* the same.  Of course this is wrong!  The current through Vs is
* correct, but the current through Vd is off.  So what is going on?

* Assume that double-precision math is being used.  The voltage on
* node si is very close to zero.  How precise can this be?  It can be
* very precise, approximately 1e-308 resolution near zero volts. 
* Thus, the voltage difference between v(si) and v(s), which along
* with Rs sets the current measured by Vs, can be represented
* accurately.

* Now consider the voltage on the di node, which must be very close to
* the voltage of the drain, which is 1 volt.  How closely can a double
* precision number represent voltages near 1 volt?  The answer is
* about one part in 1e16.  But this voltage quantization, divided by
* the Rd resistance, gives 1e-13 amps, which is about the same as the
* current we are trying to measure!

* WRspice has a ".options extprec" feature which will solve the
* circuit equations using more precision.  One can see that use of
* this option provides much more accurate results for this case.

.control
if $?extprec
    set extprecback
    unset extprec
end
echo See the comments in the circuit file for an explananion.  We have
echo two current sources in series, and one would expect them to measure
echo the same magnitude current (but opposite signs).  However, with
echo double precision math, the two current magnitudes differ
echo substantially.
op
print I(Vd) I(Vs)
echo With the extprec option given, there is much better agreement.
set extprec
op
print I(Vd) I(Vs)
if ($?extprecback)
    unset extprecback
else
    unset extprec
end
edit
.endc
